US08071607B2
Compound 18A. Thiophene-2-sulfonic Acid [3-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide
Title compound 11B, 1-(3-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (36 mg, 1.1 eq, 0.16 mmol), 2-thiophenesulphonylchloride (29 mg, 1.0 eq, 0.16 mmol) and diisopropylethylamine (28 μl, 1.0 eq, 0.16 mmol) were added to DMF (1 ml) and the mixture was stirred for 15 hours at room temperature under an inert atmosphere. Methanol was then added (1 ml) and the solvents were removed in vacuo. The resultant residue was purified by semi-preparative HPLC to yield the title compound as a white solid (10 mg, 0.03 mmol, 16%). LCMS: [M+H]+=373, Rt=1.63 min, 100% purity.

reactant | 1-(3-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.16 mmol, 36 mg, 1.1 eq | NC=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | 2-thiophenesulphonylchloride | 0.16 mmol, 29 mg, 1.0 eq | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | diisopropylethylamine | 0.16 mmol, 28 μl, 1.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | Methanol | CO | CH4O
product | Thiophene-2-sulfonic Acid [3-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide | 0.03 mmol, 10 mg, 16% | NC1=C2C(=NC=N1)N(N=C2)C=2C=C(C=CC2)NS(=O)(=O)C=2SC=CC2 | C15H12N6O2S2
